data/oMe_Silver.jsonl
{"reaction_id": "NR-108_1-c1ccc(C(F)(F)F)cc1_2-c1cnccc1_3-c1ccc(OC)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(OC)cc1)CCCC(c1ccc(C(F)(F)F)cc1)c1cnccc1"],"products_smiles": ["N(c1ccc(OC)cc1)CCCC(c1ccc(C(F)(F)F)cc1)(c1cnccc1)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(OC)cc1)CCCC(c1ccc(C(F)(F)F)cc1)c1cnccc1","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(OC)cc1)CCC[C](c1ccc(C(F)(F)F)cc1)c1cnccc1","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(OC)cc1)CCCC(c1ccc(C(F)(F)F)cc1)(c1cnccc1)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
{"reaction_id": "NR-120_1-CCCCC_2-C1CC1_3-c1ccc(Cl)cc1","name": "Julia-Kociensky Olefination","level": "medium","reactants_smiles": ["C(CCCCC)(C1CC1)S(=O)(=O)c1sc2ccccc2n1","C(c1ccc(Cl)cc1)=O"],"products_smiles": ["C(c1ccc(Cl)cc1)=C(CCCCC)C1CC1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](CCCCC)(C1CC1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The strong base deprotonates the α-position to the sulfone, as the negative charge is stabilized by resonance with the electron-withdrawing sulfone group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(Cl)cc1)([O-])C(CCCCC)(C1CC1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by polarization of the C=O bond and minimal steric hindrance from c1ccc(Cl)cc1."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=C2C(=C1)[N-]C3(S2)[S](=O)(c(C(O3)(c1ccc(Cl)cc1))(CCCCC)C1CC1)=O","rationale": "Intramolecular attack by the alkoxide on the heteroaryl ring occurs due to proximity and the electrophilicity of the activated heteroaryl sulfur, forming a cyclic intermediate."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "c1ccc2c(c1)n=c(s2)OC(c1ccc(Cl)cc1)C(CCCCC)(C1CC1)[S](=O)[O-]","rationale": "Heterolytic cleavage of the S–C bond is driven by the stability of the leaving heteroaryl sulfinate anion and relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Cl)cc1)=C(CCCCC)C1CC1","rationale": "Base-induced elimination occurs as the β-alkoxy group departs with the sulfinate, forming the thermodynamically favored alkene."}],"description": "Under basic conditions, the sulfone-stabilized carbanion adds to the carbonyl, forming a β-alkoxysulfone intermediate. Subsequent intramolecular rearrangement and fragmentation release the heteroaryl sulfone, driving elimination to yield the alkene via the Julia–Kocienski olefination pathway."}
